US05525600
1-Azepan-1-yl-4-[4-(3-methoxy-thiophen-2-yl)-1,2,3,6-tetrahydro-pyridin-1-yl]-2-phenyl-butan-1-one
The title compound was prepared from 1-azepan-1-yl-4-[4-hydroxy-4-(3-methoxy-thiophen-2-yl)-piperidin-1-yl]-2-phenyl-butan-1-one (1.35 g, 2.9 mmole) and acetic acid (80 mL) in the manner previously described above to yield 1.1 g of product, m.p. 108°-12 ° C.

reactant | 1-azepan-1-yl-4-[4-hydroxy-4-(3-methoxy-thiophen-2-yl)-piperidin-1-yl]-2-phenyl-butan-1-one | 2.9 mmole, 1.35 g | N1(CCCCCC1)C(C(CCN1CCC(CC1)(C=1SC=CC1OC)O)C1=CC=CC=C1)=O | C26H36N2O3S
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 1-Azepan-1-yl-4-[4-(3-methoxy-thiophen-2-yl)-1,2,3,6-tetrahydro-pyridin-1-yl]-2-phenyl-butan-1-one | N1(CCCCCC1)C(C(CCN1CCC(=CC1)C=1SC=CC1OC)C1=CC=CC=C1)=O | C26H34N2O2S
